US05439917
Preparation of 3-(carbamoylmethyl)-2-phenylpyrrolo[2.3-b]pyridine
3-(Cyanomethyl)-2-phenylpyrrolo[2,3-b]pyridine (0.37 g, 1.39 mmol), powdered KOH (0.82 g), and t-butanol (5 ml) were heated to reflux under argon for 3 h. The reaction mixture was then cooled to room temperature and diluted with deionized water (6.5 ml) to give a precipitate. The suspension was extracted with methylene chloride and filtered. The filter cake consisted of pure title compound.

reactant | 3-(Cyanomethyl)-2-phenylpyrrolo[2,3-b]pyridine | 1.39 mmol, 0.37 g | C(#N)CC1=C(NC2=NC=CC=C21)C2=CC=CC=C2 | C15H11N3
reactant | KOH | 0.82 g | [OH-].[K+]
reactant | t-butanol | 5 ml | C(C)(C)(C)O | C4H10O
solvent | water | 6.5 ml | O | H2O
product | 3-(carbamoylmethyl)-2-phenylpyrrolo[2.3-b]pyridine | C(N)(=O)CC1=C(NC2=NC=CC=C21)C2=CC=CC=C2 | C15H13N3O
